US07608639B2
3-{4-[3-(2-Benzyl-4-chloro-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid
A solution of 3-[4-(3-bromo-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester (0.1 g, 0.3 mmol), 2-benzyl-4-chloro-phenol (69 mg, 0.32 mmol), copper(I) chloride (14 mg, 0.14 mmol), 2,2,6,6-tetramethyl-3,5-heptanedione (0.01 mL, 0.07 mmol), and cesium carbonate (113 mg, 0.35 mmol) in NMP (3 mL) is heated to 120° C. The reaction is stirred overnight and cooled to rt. The reaction is then quenched with 1N aqueous HCl and extracted with ethyl ether. The organic is washed with brine, dried over sodium sulfate, and filtered. The solvent is removed to afford the crude ester intermediate. The intermediate is treated with 5N NaOH (0.4 mL, 2.2 mmol) in MeOH (5 mL) and heated to reflux. The reaction is stirred at reflux for 2 hours and then cooled. The reaction is quenched with 1N aqueous HCl to obtain pH=4. The aqueous layer is extracted with ethyl ether. The organic layer is washed with brine, dried over sodium sulfate, and filtered. The solvent is removed to afford the crude product. The crude is purified by prep HPLC to afford 63 mg (47%) of desired product. 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calculated for C29H25ClO4 472, found 473 and 475 (M+1 and M+3, 100%).

reactant | 3-[4-(3-bromo-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester | 0.3 mmol, 0.1 g | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC=C1)Br)C)=O | C17H17BrO3
reactant | 2-benzyl-4-chloro-phenol | 0.32 mmol, 69 mg | C(C1=CC=CC=C1)C1=C(C=CC(=C1)Cl)O | C13H11ClO
reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | 0.07 mmol, 0.01 mL | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | cesium carbonate | 0.35 mmol, 113 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | NaOH | 2.2 mmol, 5N, 0.4 mL | [OH-].[Na+]
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
solvent | MeOH | 5 mL | CO | CH4O
catalyst | copper(I) chloride | 0.14 mmol, 14 mg | [Cu]Cl
product | 3-{4-[3-(2-Benzyl-4-chloro-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid | 63 mg, 47% | C(C1=CC=CC=C1)C1=C(OC=2C=C(OC3=CC(=C(C=C3)CCC(=O)O)C)C=CC2)C=CC(=C1)Cl | C29H25ClO4
